US04966985
synthesis of (1R,2S)-2-ethoxycarbonylmethyl-amino-1,2-diphenylethanol
(1R,2S)-2-amino-1,2-diphenylethanol (2.10 g) was dissolved in dichloromethane (30 ml) and stirred at room temperature. Ethyl bromoacetate (2.00 g), dissolved in dichloromethane (15 ml), was added to the solution. The mixture was stirred at room temperature for 7 days, and then triethylamine (1.5 ml) was added and stirred at room temperature for an additional day. After the spot of the starting material in TLC disappeared, dichloromethane was evaporated under reduced pressure Benzene (100 ml) was added to the remaining residue, and the triethylamine hydrobromide salt was washed out with water. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solution was filtered and evaporated. The residue (2.60 g, 88%) was recrystallized from hexane (ca. 300 ml). The crystals deposited were collected and dried under reduced pressure. Yield 2.20 g (75%); mp 123-125° C.; [α]D18 +2.4° (c 1.00, EtOH). IR (KBr): 3180, 1745, 765, 705 cm- 1. 1H-NMR (CDC13): 1.17 (t, 3H, J =7 Hz), 2.35 (bs, 2H), 3.16 (pseudo s, 2H), 3.98 (q, 2H, J =7 Hz), 4.15 (d, 1H, J =6 Hz), 4.76 (d, 1H, J =6 Hz), 7.20 (s, 10H) ppm.

reactant | (1R,2S)-2-amino-1,2-diphenylethanol | 2.10 g | N[C@H]([C@H](O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H15NO
reactant | Ethyl bromoacetate | 2.00 g | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (1R,2S)-2-ethoxycarbonylmethyl-amino-1,2-diphenylethanol | C(C)OC(=O)C[C@H]([C@@](O)(C1=CC=CC=C1)N)C1=CC=CC=C1 | C18H21NO3
